US05811389
A solution of 0.3 g of benzyl 5-[(N-benzyloxycarbonyl-L-alanyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate in 85 ml of trifluoroethanol was stirred under hydrogen for 15 minutes in the presence of palladium/charcoal (10%). The catalyst was filtered off and rinsed with trifluoroethanol. The filtrate and wash solution were brought to dryness and the combined residue was chromatographed over silica gel in chloroform/methanol/water, whereby 0.18 g 5-(L-alanylaminomethyl)-3,6-dimethoxy-9,9-dimethylxanthene-4-acetic acid was obtained as a colourless foam, IR 3450-2400, 1679, 1606, 1575, 1493 cm-1.

reactant | benzyl 5-[(N-benzyloxycarbonyl-L-alanyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate | 0.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)OCC1=CC=CC=C1 | C38H40N2O8
solvent | trifluoroethanol | 85 ml | C(C(F)(F)F)O | C2H3F3O
catalyst | palladium/charcoal | [Pd] | Pd
product | 5-(L-alanylaminomethyl)-3,6-dimethoxy-9,9-dimethylxanthene-4-acetic acid | 0.18 g | N[C@@H](C)C(=O)NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)O | C23H28N2O6
